US04440850
3-(Methacryloyloxy)-2-hydroxypropyl bicyclo[2.2.1]hept-2-ene-6-carboxylate
Glycidyl methacrylate (43 g), containing 0.13 g of 2,6-di-tert. butyl-p-cresol and 0.26 g of tetramethylammonium chloride, was heated to 100° C. and bicyclo[2.2.1]hept-2-ene-6-carboxylic acid (41.8 g) was added slowly over about 1 hour, so that the temperature of the mixture did not exceed 105° C. Heating at 100° C. was continued for a further three hours, by which time the epoxide content of the product was negligible. The above-mentioned ester was a colourless mobile liquid.

reactant | Glycidyl methacrylate | 43 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | 2,6-di-tert. butyl-p-cresol | 0.13 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | bicyclo[2.2.1]hept-2-ene-6-carboxylic acid | 41.8 g | C12C=CC(CC1C(=O)O)C2 | C8H10O2
catalyst | tetramethylammonium chloride | 0.26 g | [Cl-].C[N+](C)(C)C
product | 3-(Methacryloyloxy)-2-hydroxypropyl bicyclo[2.2.1]hept-2-ene-6-carboxylate | C12C=CC(CC1C(=O)OCC(COC(C(=C)C)=O)O)C2 | C15H20O5
